US06900227B2
Preparation of 2,2-bis-(3-methoxy-phenyl)-benzo[1,3]dioxole-5-carboxylic acid ethyl ester
This compound was prepared from dichloro-bis-(3-methoxyphenyl)-methane and ethyl 3,4-dihydroxybenzoate according to Example 269d; the crude product was used for the next step.

reactant | dichloro-bis-(3-methoxyphenyl)-methane | ClC(C1=CC(=CC=C1)OC)(C1=CC(=CC=C1)OC)Cl | C15H14Cl2O2
reactant | ethyl 3,4-dihydroxybenzoate | OC=1C=C(C(=O)OCC)C=CC1O | C9H10O4
product | 2,2-bis-(3-methoxy-phenyl)-benzo[1,3]dioxole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(OC(O2)(C2=CC(=CC=C2)OC)C2=CC(=CC=C2)OC)C=C1 | C24H22O6
